US06291455B1
Diethyl azodicarboxylate (209 mg, 1.2 mmol) was added dropwise to a suspension of 4-(4-bromo-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (146 mg, 0.4 mmol), triphenylphosphine (314 mg, 1.2 mmol) and 1-(2-hydroxyethyl)4-methylpiperazine (86 mg, 0.6 mmol), (prepared as described for the starting material in Example 17), in methylene chloride (5 ml). The mixture was stirred for 1 hour at ambient temperature and the mixture was purified by column chrormatography eluting with methylene chloride/methanol (90/10 followed by 80/20). The purified product was triturated with ether, collected by filtration and dried under vacuum. The solid was dissolved in methylene chloride and 3M ethereal hydrogen chloride (0.5 ml) was added. The volatiles were removed by evaporation and the resulting oil was triturated with ether. The solid was collected by filtration, washed with ether and dried under vacuum to give 4-(4-bromo-2-fluoroanilino)-6-methoxy-7-(2-(4-methylpiperazin-1-yl)ethoxy)quinazoline hydrochloride (100 mg, 41%).

reactant | Diethyl azodicarboxylate | 1.2 mmol, 209 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-(4-bromo-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 0.4 mmol, 146 mg | BrC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11BrFN3O2
reactant | triphenylphosphine | 1.2 mmol, 314 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-(2-hydroxyethyl)4-methylpiperazine | 0.6 mmol, 86 mg | OCCN1CCN(CC1)C | C7H16N2O
reactant | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-bromo-2-fluoroanilino)-6-methoxy-7-(2-(4-methylpiperazin-1-yl)ethoxy)quinazoline hydrochloride | 100 mg, 41% | Cl.BrC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCN2CCN(CC2)C)C=C1)F | InChI=1S/C22H25BrFN5O2.ClH/c1-28-5-7-29(8-6-28)9-10-31-21-13-19-16(12-20(21)30-2)22(26-14-25-19)27-18-4-3-15(23)11-17(18)24;/h3-4,11-14H,5-10H2,1-2H3,(H,25,26,27);1H
